US07776877B2
N-(2-Bromo-4-chloro-phenyl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide
To a solution of N-(2-bromo-4-chloro-phenyl)-4-tert-butyl-benzenesulfonamide (1.00 g, 2.49 mmol) and K2CO3 (1.72 g, 12.4 mmol) in 8 mL anhydrous THF was added chloromethyl methyl ether (299 mg, 3.73 mmol). The resultant heterogeneous solution was stirred for 60 minutes at ambient temperature and the solids were subsequently removed via filtration. The filtrate was subsequently concentrated in vacuo and the residue was dissolved in EtOAc. The organics were washed with saturated Na2CO3, dried over MgSO4, and evaporated in vacuo. The resultant residue was then purified via automated silica gel chromatography to afford the desired protected sulfonamide: MS (ES) M+H expected 446.0, found 446.0.

reactant | N-(2-bromo-4-chloro-phenyl)-4-tert-butyl-benzenesulfonamide | 2.49 mmol, 1.00 g | BrC1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C16H17BrClNO2S
reactant | K2CO3 | 12.4 mmol, 1.72 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethyl methyl ether | 3.73 mmol, 299 mg | COCCl | C2H5ClO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | N-(2-Bromo-4-chloro-phenyl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | BrC1=C(C=CC(=C1)Cl)N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC | C18H21BrClNO3S
